US07705047B2
N-[1-cyano-1-methyl-2-(5-cyano-2-{2,4-dichlorophenoxy}-phenoxy)-ethyl]-4-trifluoromethoxybenzamide
13.04 g of 3-(2-amino-2-cyano-1-propoxy)-4-(2,4-dichlorophenoxy)-benzonitrile and 6.1 g of ethyldiisopropylamine are dissolved in 120 ml of dichloromethane. After cooling the mixture to 0°, 9.9 g of 4-trifluoromethoxybenzoyl chloride is added, the reaction mixture stirred at room temperature for 6 h and then concentrated under vacuum. The residue is dissolved in ethylacetate and washed with a 1N aqueous solution of sodium hydroxide, water, a 1N aqueous solution of hydrogen chloride, again with water and finally with brine. The organic phase is dried over magnesium sulfate, filtered and evaporated. The raw residue is then recrystallized in diethylether/hexane, thus yielding the title compound with a melting point of 151-2°.

reactant | 3-(2-amino-2-cyano-1-propoxy)-4-(2,4-dichlorophenoxy)-benzonitrile | 13.04 g | NC(COC=1C=C(C#N)C=CC1OC1=C(C=C(C=C1)Cl)Cl)(C)C#N | C17H13Cl2N3O2
reactant | ethyldiisopropylamine | 6.1 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-trifluoromethoxybenzoyl chloride | 9.9 g | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | N-[1-cyano-1-methyl-2-(5-cyano-2-{2,4-dichlorophenoxy}-phenoxy)-ethyl]-4-trifluoromethoxybenzamide | C(#N)C(COC1=C(C=CC(=C1)C#N)OC1=C(C=C(C=C1)Cl)Cl)(C)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C25H16Cl2F3N3O4
